US06114358
d) 5-Chloromethylisoxazole-3-carboxamide
Ammonia was passed into a solution of 10 g (55.56 mmol) of 5-chloromethylisoxazole-3-carbonyl chloride in 100 ml of methylene chloride at 10-15° C. for 1 h, and the mixture was then stirred at room temperature for 1 h. After the solution had been cooled to 0° C., the precipitate was filtered off with suction and washed with a little cold methylene chloride, and the residue was extracted by stirring with water twice to remove ammonium salts. Drying under reduced pressure resulted in 6.58 g of pure product as a pale powder (74% of theory).

reactant | Ammonia | N | H3N
reactant | 5-chloromethylisoxazole-3-carbonyl chloride | 55.56 mmol, 10 g | ClCC1=CC(=NO1)C(=O)Cl | C5H3Cl2NO2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 5-Chloromethylisoxazole-3-carboxamide | 6.58 g, 74% | ClCC1=CC(=NO1)C(=O)N | C5H5ClN2O2
